data/mechanism_extracts/EurJOC/10.1002_ejoc.202300927.json
{"doi": "10.1002_ejoc.202300927", "journal": "EurJOC", "is_review": false, "rxn_class_summary": "Electrochemical bromide-mediated sulfoximido-selenylation of unsaturated sulfoximines with diselenides to give cyclic sulfoximidoyl heterocycles bearing -SeR groups", "mechanism_family": ["mediator_anodic", "radical_anodic", "radical_cation"], "electrochemical_role": "Anodic oxidation of Br- to Br3+ which then oxidizes PhSeSePh to a selenium radical/radical cation; bromide acts as redox mediator", "key_intermediates": [{"name": "PhSe radical and/or PhSe cation from anodic oxidation of PhSeSePh", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "Br3+ (anodically generated brominating/oxidizing species)", "smiles": null, "role": "transient"}, {"name": "Carbon-centered radical/cation adduct I from PhSe addition to alkene of unsaturated sulfoximine", "smiles": null, "role": "reactive"}, {"name": "Further oxidized intermediate II (carbocation) or aziridinium-type III after deprotonation", "smiles": null, "role": "reactive"}, {"name": "Cyclized sulfoximidoyl heterocycle 3a", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes Br- to Br3+, which oxidizes PhSeSePh to PhSe radical/cation; this adds to the alkene of the unsaturated sulfoximine generating intermediate I, which is further oxidized to a cation (II) and then trapped by intramolecular nucleophilic attack of the sulfoximine N followed by deprotonation to give the cyclic product.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3a still formed in 35% yield; only partial suppression, suggesting radical pathway may not be dominant"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Product 3a formed in 67% yield; little suppression observed"}, {"name": "nBu4NBr (cyclic voltammetry)", "smiles": "CCCC[N+](CCCC)(CCCC)CCCC.[Br-]", "purpose": "redox_probe", "observation": "Lower oxidation peak and obvious catalytic current observed, confirming Br- acts as redox mediator"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Authors propose two pathways in Scheme 4: (A) anodic oxidation pathway via Br3+ mediator generating PhSe radical/cation, favored and discussed first; (B) alternative cathodic reduction of PhSeSePh to give PhSe- + PhSe radical, supported by prior literature. The incomplete suppression by TEMPO/BHT led authors to suggest a radical process may not be the main pathway, implying the cationic (path a via radical cation) route may dominate."}
